US09056859B2
A mixture of tert-butyl 4-{[5-(1H-tetrazol-1-yl)pyridin-2-yl]acetyl}piperazine-1-carboxylate (30 mg, 0.08 mmol) in HCl/EtOAc (5 mL) was stirred for 3 hours at room temperature. The reaction mixture was concentrated under reduce pressure to give 1-(piperazin-1-yl)-2-[5-(1H-tetrazol-1-yl)pyridin-2-yl]ethanone hydrochloride. MS m/z 274 (M+1)+.

reactant | tert-butyl 4-{[5-(1H-tetrazol-1-yl)pyridin-2-yl]acetyl}piperazine-1-carboxylate | 0.08 mmol, 30 mg | N1(N=NN=C1)C=1C=CC(=NC1)CC(=O)N1CCN(CC1)C(=O)OC(C)(C)C | C17H23N7O3
reactant | HCl EtOAc | 5 mL | Cl.CCOC(=O)C
product | 1-(piperazin-1-yl)-2-[5-(1H-tetrazol-1-yl)pyridin-2-yl]ethanone hydrochloride | Cl.N1(CCNCC1)C(CC1=NC=C(C=C1)N1N=NN=C1)=O | InChI=1S/C12H15N7O.ClH/c20-12(18-5-3-13-4-6-18)7-10-1-2-11(8-14-10)19-9-15-16-17-19;/h1-2,8-9,13H,3-7H2;1H
